US04861769
A solution of ethyl 2-cyclopropyloxyimino-2-(5-tritylamino-1,2,4-thiadiazol-3-yl)acetate (syn isomer)(11 g) in a mixture of tetrahydrofuran (72 ml), methanol (72 ml) and 2N sodium hydroxide (72 ml) was stirred at ambient temperature overnight. The mixture was concentrated in vacuo. The residue was dissolved in a mixture of ethyl acetate and water and adjusted to pH 2 with 3N hydrochloric acid. The organic layer wad separated, washed with water and saturated aquious solution of sodium chloride, dried over magnesium sulfate, concentrated in vacuo, and triturated with petrolium ether to give 2-cyclopropyloxyimino-2-(5-tritylamino-1,2,4-thiadiazol-3-yl) acetic acid (syn isomer) (7.75 g) as a solid.

reactant | ethyl 2-cyclopropyloxyimino-2-(5-tritylamino-1,2,4-thiadiazol-3-yl)acetate | 11 g | C1(CC1)ON=C(C(=O)OCC)C1=NSC(=N1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C28H26N4O3S
reactant | methanol | 72 ml | CO | CH4O
reactant | sodium hydroxide | 2N, 72 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 72 ml | O1CCCC1 | C4H8O
product | 2-cyclopropyloxyimino-2-(5-tritylamino-1,2,4-thiadiazol-3-yl) acetic acid | 7.75 g | C1(CC1)ON=C(C(=O)O)C1=NSC(=N1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C26H22N4O3S
